US08044173B2
(3S,5R)-3-benzyl-5-phenyl-3,4,5,6-tetrahydro-2H-1,4-oxazin-2-one
To a solution of (3S)-3-Benzyl-5-phenyl-3,6-dihydro-2H-1,4-oxazin-2-one (1.56 g, 5.88 mmol, 1.0 equiv.) in anhydrous methanol (40 mL) under an atmosphere of nitrogen was added palladium on activated carbon (156 mg, 0.1 equiv. by mass). The mixture was consecutively degassed and purged three times with hydrogen and then stirred for 5 hours under an atmosphere of hydrogen. Filtration through a short pad of CELITE® diatomaceous earth and removal of solvent from the filtrate in vacuo yielded the crude product which was purified by flash column chromatography on silica eluting with petrol and diethyl ether (4:1) to furnish the title product as a white solid (514 mg, 33%); m.p. 75.0-76.0° C. (lit. 76.0-78.0° C.); v(max)(KBr) 3321 (N—H), 2949 (C—H), 1731 (C═O), cm−1; δH (250 MHz, CDCl3) 7.36-7.21 (10H, m, Ph), 4.34-4.15 (3H, m, PhCHCH2), 3.97 (1H, dd, J 3.2, T 10.0 Hz, NHCH), 3.56, (1H, dd, J 3.2, J 13.6 Hz, CHPh×1), 3.00, (1H, dd, /10.0, T 13.6 Hz, CH2Ph×1), 1.84 (1H, br, NH); δH, (62.5 MHz, CDCl3) 169.6, 138.0, 137.8, 129.8, 129.3, 129.2, 129.1, 127.5, 127.4, 75.3, 60.6, 57.9, 39.4; m/z (CL, NH3), 268 (MH+, 40%), 267 (80%, M+), 223 (100%), and 209 (57%); HRMS for C17H17NO2 requires 267.1259 found 267.1263. [α]D20 −156.4 (c 1.02 CHCl3) (lit. [α]D20 −157.9 (c 2.00 CHCl3)).

reactant | (3S)-3-Benzyl-5-phenyl-3,6-dihydro-2H-1,4-oxazin-2-one | 5.88 mmol, 1.56 g, 1.0 equiv. | C(C1=CC=CC=C1)[C@H]1C(OCC(=N1)C1=CC=CC=C1)=O | C17H15NO2
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on activated carbon | 156 mg, 0.1 equiv. | [Pd] | Pd
product | (3S,5R)-3-benzyl-5-phenyl-3,4,5,6-tetrahydro-2H-1,4-oxazin-2-one | 514 mg, 33% | C(C1=CC=CC=C1)[C@H]1C(OC[C@H](N1)C1=CC=CC=C1)=O | C17H17NO2
